US07550629B2
A solution of 3,4,5-trifluorobenzenesulfonyl chloride (0.348 mL, 2.50 mmol) in CH2Cl2 (5 mL) was added to a solution of 2-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester (0.4 g, 1.67 mmol) prepared as described (J. Med Chem. 1981, 24, 1043-1047), and pyridine (0.27 mL, 3.34 mmol) in CH2Cl2 (5 mL) at 0° C. and allowed to warm to 25° C. for 19 h. The solution was washed with 1M HCl (1 mL), brine (1 mL), dried over Na2SO4 and concentrated. The crude solid was purified by Biotage Flash™ chromatography, eluting with EtOAc/hexanes (1:4), to give 4,4,4-trifluoro-2-(3,4,5-trifluoro-benzenesulfonylamino)-3-trifluoromethyl-butyric acid ethyl ester (0.63 g, 85%) as a white solid. Mass Spectrum (+ESI): 448 [M+H]+.

reactant | 3,4,5-trifluorobenzenesulfonyl chloride | 2.50 mmol, 0.348 mL | FC=1C=C(C=C(C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | 2-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester | 1.67 mmol, 0.4 g | C(C)OC(C(C(C(F)(F)F)C(F)(F)F)N)=O | C7H9F6NO2
reactant | pyridine | 3.34 mmol, 0.27 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4,4,4-trifluoro-2-(3,4,5-trifluoro-benzenesulfonylamino)-3-trifluoromethyl-butyric acid ethyl ester | 0.63 g, 85% | C(C)OC(C(C(C(F)(F)F)C(F)(F)F)NS(=O)(=O)C1=CC(=C(C(=C1)F)F)F)=O | C13H10F9NO4S
